US07241783B2
1-(2,4-dihydroxybenzylidene)-4-(naphth-1-yl)-3-thiosemicarbazide
A solution of 4-(naphth-1-yl)-3-thiosemicarbazide (26 mg, 0.12 mmol) and 2,4-dihydroxybenzaldehyde (20 mg, 0.144 mmol) in dimethylformamide (1 mL) was shaken with 4 Å molecular sieves for 60 h. PS-TsNHNH2 resin (29 mg, 0.085 mmol) was added and shaking continued for 40 h, then the resin was filtered off. The solvent was removed under vacuum and the residue dissolved in ethanol. The solvent was again removed and the process repeated to give the title compound (7 mg, 18%) as a solid. MS (ES−) m/e 336 [M−H]−.

reactant | 4-(naphth-1-yl)-3-thiosemicarbazide | 0.12 mmol, 26 mg | C1(=CC=CC2=CC=CC=C12)NC(NN)=S | C11H11N3S
reactant | 2,4-dihydroxybenzaldehyde | 0.144 mmol, 20 mg | OC1=C(C=O)C=CC(=C1)O | C7H6O3
reactant | TsNHNH2 | 0.085 mmol, 29 mg | S(=O)(=O)(C1=CC=C(C)C=C1)NN | C7H10N2O2S
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 1-(2,4-dihydroxybenzylidene)-4-(naphth-1-yl)-3-thiosemicarbazide | 7 mg, 18% | OC1=C(C=NNC(=S)NC2=CC=CC3=CC=CC=C23)C=CC(=C1)O | C18H15N3O2S
